US07427612B2
4-Fluoro-2-[4-(5-methanesulfonyl-2-pyrrolidin-1-yl-benzoyl)-piperazin-1-yl]-benzonitrile
A mixture of 13.6 mg (0.05 mmol) 5-Methanesulfonyl-2-pyrrolidin-1-yl-benzoic acid, 15.7 mg (0.06 mmol) 2-Fluoro-4-piperazin-1-yl-benzonitrile (Org. Proc. Res. Dev. 1999, 460), 17.9 mg (0.06 mmol) TBTU and 43 ul (0.25 mmol) DIPEA in 1 ml DMF was stirred for 16 h at room temperature. After addition of 100 ul formic acid the mixture was subjected to preparative HPLC purification on reversed phase eluting with an acetonitrile/water gradient to yield after evaporation of the product fractions 10.6 mg (33%) of the title compound. MS (m/e): 457.2 (MH+, 100%)

reactant | 5-Methanesulfonyl-2-pyrrolidin-1-yl-benzoic acid | 0.05 mmol, 13.6 mg | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)N1CCCC1 | C12H15NO4S
reactant | 2-Fluoro-4-piperazin-1-yl-benzonitrile | 0.06 mmol, 15.7 mg | FC1=C(C#N)C=CC(=C1)N1CCNCC1 | C11H12FN3
reactant | TBTU | 0.06 mmol, 17.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.25 mmol, 43 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | formic acid | 100 ul | C(=O)O | CH2O2
product | 4-Fluoro-2-[4-(5-methanesulfonyl-2-pyrrolidin-1-yl-benzoyl)-piperazin-1-yl]-benzonitrile | FC1=CC(=C(C#N)C=C1)N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)N1CCCC1)=O | C23H25FN4O3S
